US08022062B2
7-Cyano-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add copper nitrile (2.6 g, 28 mmol) to a solution of 7-bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2.4 g, 7.0 mmol) in anhydrous NMP (45 mL), degas and purge with nitrogen and heat to 150° C. for 18 h. Allow the reaction mixture to cool to ambient temperature and then dilute with EtOAc/heptane (2:1) and filter through a silica pad. Dilute the filtrate with water, and extract the aqueous phase twice with EtOAc. Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/heptane (1:4 to 1:1) to obtain the desired intermediate as an orange oil (1.7 g, 86%). MS (ES−) m/z: 283 (M−H)−.

reactant | 7-bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 7.0 mmol, 2.4 g | BrC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C12H11BrF3NO2
reactant | NMP | 45 mL | CN1CCCC1=O | C5H9NO
product | 7-Cyano-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.7 g, 86% | C(#N)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C13H11F3N2O2
